US03985729
In 35 milliliters of tetrahydrofuran, 4 grams methyl bromide is dissolved. One quarter of this solution is then added to 1 gram of magnesium, previously washed with chloroform, and refluxed with tetrahydrofuran for 20 minutes; and this mixture is refluxed 4 hours to initiate reaction. Additional methyl bromide solution is thereafter added to maintain the refluxing without further heating. After the addition has been completed 10 grams of 3-benzylmethylaminoindan-1-one is added and the mixture is refluxed for 2 hours. The reactants are allowed to stand overnight and then poured onto ice-cold ammonium chloride solution. Tetrahydrofuran is added and the two layers formed are allowed to separate. The solvent layer is decanted off and the aqueous layer is extracted twice with 10 milliliters of tetrahydrofuran which are decanted off and combined with the remaining solvent layer. The organic phase is dried over anhydrous magnesium sulphate, filtered and evaporated to dryness to yield 3-benzylmethylamino-1-methylindan-1-ol as a yellow oil.

reactant | methyl bromide | 4 grams | CBr | CH3Br
reactant | magnesium | 1 gram | [Mg] | Mg
reactant | 3-benzylmethylaminoindan-1-one | 10 grams | C(C1=CC=CC=C1)CNC1CC(C2=CC=CC=C12)=O | C17H17NO
solvent | tetrahydrofuran | 35 milliliters | O1CCCC1 | C4H8O
product | 3-benzylmethylamino-1-methylindan-1-ol | C(C1=CC=CC=C1)CNC1CC(C2=CC=CC=C12)(O)C | C18H21NO
